US06228877B1
2.5 gms of 6-amino-1-methylindole hydrochloride was taken into 30 mL dry pyridine and treated with 1.93 mL of trifluoroacetic anhydride at 0° C. It was stored in the refrigerator overnight. It was taken into cold water and extracted with ethyl acetate and washed with cold 5% phosphoric acid and 5% brine. The organics were dried over magnesium sulfate and the concentrated crude product was further purified by flash silica chromatography. Product was crystallyzed from methylene cholride/hexanes to give 1.1 gms of 1-methyl-6-trifluoroacetylaminoindole.

reactant | 6-amino-1-methylindole hydrochloride | 2.5 gms | Cl.NC1=CC=C2C=CN(C2=C1)C
reactant | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 1.93 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | O | H2O
product | 1-methyl-6-trifluoroacetylaminoindole | 1.1 gms | CN1C=CC2=CC=C(C=C12)NC(C(F)(F)F)=O | C11H9F3N2O
